US09062015B2
FS603: 1′-(4-Chloro-1,3,5-triazin-2-yl)-1,4′-bipiperidinyl-3-ol
200 mg (1.27 mmol) of 2,4-dichloro-1,3,5-triazine are dissolved in 2 ml of acetonitrile, cooled to 0° C., 176 μl of triethylamine and 223 mg (1.27 mmol) of 1,4′-bipiperidinyl-3-ol are added. The reaction mixture is stirred at 0° C. for 2 h and subsequently at room temperature for 48 h. Sat. NaCl solution is subsequently added, and the mixture is extracted three times with ethyl acetate. The combined organic phases are washed with 1N NaOH and water, dried over Na2SO4 and evaporated.

reactant | 2,4-dichloro-1,3,5-triazine | 1.27 mmol, 200 mg | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | triethylamine | 176 μl | C(C)N(CC)CC | C6H15N
reactant | 1,4′-bipiperidinyl-3-ol | 1.27 mmol, 223 mg | N1(CC(CCC1)O)C1CCNCC1 | C10H20N2O
reactant | NaCl | [Na+].[Cl-]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1′-(4-Chloro-1,3,5-triazin-2-yl)-1,4′-bipiperidinyl-3-ol | ClC1=NC(=NC=N1)N1CCC(CC1)N1CC(CCC1)O | C13H20ClN5O
